US06274536B1
3-(3-Fluoro-5-chloro-2-pyridyl)-5-difluoromethoxy-1-methyl-[1H]-pyrazole
46.0 g of 3-(3-fluoro-5-chloro-2-pyridyl)-5-hydroxy-1-methyl-[1H]-pyrazole (Example P13) and 84 g of potassium carbonate are introduced into 250 ml of dry dimethylformamide and heated to 85° C. While stirring well, Freon 22 (chlorodifluoromethane) is then introduced for a period of 2 hours. TLC analysis of a worked-up sample (silica gel 60 F2s; eluant: n-hexane/ethyl acetate/glacial acetic acid 20/20/1, UV) shows that there is no starting material present. The reaction mixture is partitioned between water and diethyl ether (foaming occurs on the addition of water). After extraction by shaking, and separation of the phases, the ethereal phase is washed twice with water and once with brine. After drying the organic phase over sodium sulfate and filtration, concentration in vacuo is carried out and the residue is purified by means of flash chromatography (silica gel; eluant: n-hexane/ethyl acetate 2/1 (v/v)). 22.0 g of the desired title compound are obtained in the form of a light-yellow solid.

reactant | 3-(3-fluoro-5-chloro-2-pyridyl)-5-hydroxy-1-methyl-[1H]-pyrazole | 46.0 g | FC=1C(=NC=C(C1)Cl)C1=NN(C(=C1)O)C | C9H7ClFN3O
reactant | potassium carbonate | 84 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-(3-Fluoro-5-chloro-2-pyridyl)-5-difluoromethoxy-1-methyl-[1H]-pyrazole | 22.0 g | FC=1C(=NC=C(C1)Cl)C1=NN(C(=C1)OC(F)F)C | C10H7ClF3N3O
